### PR TITLE
[Merged by Bors] - feat: `finset.uIcc` on concrete structures

### PR DESCRIPTION
**Pull request by YaelDillies**
Match https://github.com/leanprover-community/mathlib/pull/18838

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by eric-wieser — COMMENTED** [review]
I'll go over this in detail tomorrow.

Is there any reason you skipped `data.finset.locally_finite`? Also, that makes it seem like you somehow touched one extra file that wasn't on the dashboard, though I haven't checked off all 13 to work out which...

File: Mathlib/Data/DFinsupp/Multiset.lean [hunk 1]
```diff
@@ -91,15 +92,76 @@ theorem toDFinsupp_toMultiset (s : Multiset α) : DFinsupp.toMultiset (Multiset.
...
+  ext i; simp [sup_eq_max]
+#align multiset.to_dfinsupp_union Multiset.toDFinsupp_union
+
 end Multiset
 
 @[simp]
 theorem DFinsupp.toMultiset_toDFinsupp [DecidableEq α] (f : Π₀ _ : α, ℕ) :
     Multiset.toDFinsupp (DFinsupp.toMultiset f) = f :=
   Multiset.equivDFinsupp.apply_symm_apply f
 #align dfinsupp.to_multiset_to_dfinsupp DFinsupp.toMultiset_toDFinsupp
```
Comment (semorrison) [inline Mathlib/Data/DFinsupp/Multiset.lean:130]: In mathlib3 this was moved into the namespace.

File: Mathlib/Data/Fin/Interval.lean [hunk 2]
```diff
@@ -119,6 +153,11 @@ theorem card_fintypeIoo : Fintype.card (Set.Ioo a b) = b - a - 1 := by
   rw [← card_Ioo, Fintype.card_ofFinset]
 #align fin.card_fintype_Ioo Fin.card_fintypeIoo
 
+@[simp]
```
Comment (semorrison) [inline Mathlib/Data/Fin/Interval.lean:156]:
```suggestion
```

File: Mathlib/Data/Finset/Lattice.lean [hunk 3]
```diff
@@ -4,7 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Mario Carneiro
 
 ! This file was ported from Lean 3 source module data.finset.lattice
-! leanprover-community/mathlib commit 2d44d6823a96f9c79b7d1ab185918377be663424
+! leanprover-community/mathlib commit 1d29de43a5ba4662dd33b5cfeecfc2a27a5a8a29
```
Comment (semorrison) [inline Mathlib/Data/Finset/Lattice.lean:7]:
```suggestion
! leanprover-community/mathlib commit 2d44d6823a96f9c79b7d1ab185918377be663424
```
Dashboard says no need to update here? It's fine to update I guess, just flagging in case something is missing here.

File: Mathlib/Data/Int/Interval.lean [hunk 4]
```diff
@@ -163,6 +171,11 @@ theorem card_fintype_Ioo : Fintype.card (Set.Ioo a b) = (b - a - 1).toNat := by
   rw [← card_Ioo, Fintype.card_ofFinset]
 #align int.card_fintype_Ioo Int.card_fintype_Ioo
 
+@[simp]
```
Comment (semorrison) [inline Mathlib/Data/Int/Interval.lean:174]:
```suggestion
```

File: Mathlib/Data/Multiset/Interval.lean [hunk 5]
```diff
@@ -33,48 +33,52 @@ open Finset DFinsupp Function
...
-    (Finset.Ioc f g).card = ∏ i in f.toFinset ∪ g.toFinset, (g.count i + 1 - f.count i) - 1 := by
+    (Finset.Ioc s t).card = ∏ i in s.toFinset ∪ t.toFinset, (t.count i + 1 - s.count i) - 1 := by
   rw [card_Ioc_eq_card_Icc_sub_one, card_Icc]
 #align multiset.card_Ioc Multiset.card_Ioc
 
 theorem card_Ioo :
-    (Finset.Ioo f g).card = ∏ i in f.toFinset ∪ g.toFinset, (g.count i + 1 - f.count i) - 2 := by
+    (Finset.Ioo s t).card = ∏ i in s.toFinset ∪ t.toFinset, (t.count i + 1 - s.count i) - 2 := by
   rw [card_Ioo_eq_card_Icc_sub_two, card_Icc]
 #align multiset.card_Ioo Multiset.card_Ioo
```
Comment (semorrison) [inline Mathlib/Data/Multiset/Interval.lean:80]: `card_uIcc` was added in mathlib3, but is still missing here.

File: Mathlib/Data/DFinsupp/Multiset.lean [hunk 6]
```diff
@@ -91,15 +92,76 @@ theorem toDFinsupp_toMultiset (s : Multiset α) : DFinsupp.toMultiset (Multiset.
...
+
+namespace DFinsupp
+
+variable [DecidableEq α] {f g : Π₀ _a : α, ℕ}
+
+theorem toMultiset_injective : Injective (toMultiset : (Π₀ _a, ℕ) → Multiset α) :=
+  Multiset.equivDFinsupp.symm.injective
+#align dfinsupp.to_multiset_injective DFinsupp.toMultiset_injective
```
Comment (semorrison) [inline Mathlib/Data/DFinsupp/Multiset.lean:138]:
```suggestion

namespace DFinsupp

variable [DecidableEq α] {f g : Π₀ _a : α, ℕ}

@[simp]
theorem toMultiset_toDFinsupp [DecidableEq α] (f : Π₀ _ : α, ℕ) :
    Multiset.toDFinsupp (DFinsupp.toMultiset f) = f :=
  Multiset.equivDFinsupp.apply_symm_apply f
#align dfinsupp.to_multiset_to_dfinsupp DFinsupp.toMultiset_toDFinsupp

theorem toMultiset_injective : Injective (toMultiset : (Π₀ _a, ℕ) → Multiset α) :=
  Multiset.equivDFinsupp.symm.injective
#align dfinsupp.to_multiset_injective DFinsupp.toMultiset_injective
```

File: Mathlib/Data/Multiset/Interval.lean (hunk 5 above)
Comment (semorrison) [reply Mathlib/Data/Multiset/Interval.lean:80]:
```suggestion

theorem card_uIcc :
    (uIcc s t).card = ∏ i in s.toFinset ∪ t.toFinset, ((t.count i - s.count i : ℤ).natAbs + 1) := by
  simp_rw [uIcc_eq, Finset.card_map, DFinsupp.card_uIcc, Nat.card_uIcc, Multiset.toDFinsupp_apply,
    toDFinsupp_support]
#align multiset.card_uIcc Multiset.card_uIcc

```

**Comment by semorrison** [comment]
@eric-wieser, the changes to `data.finset.locally_finite` are just whitespace. I'll bump the SHA.

**Comment by eric-wieser** [comment]
Well now this touches 14 files but only 13 are on the dashboard! Which one is the extra one?

**Comment by semorrison** [comment]
> Mathlib/Data/Finset/Lattice.lean

See comment above. There's one file with an unnecessary SHA bump.

**Comment by semorrison** [comment]
bors merge

File: Mathlib/Data/Finset/Lattice.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Finset/Lattice.lean:7]: Yeah, this change was just plain wrong. I was hoping to check this when I woke up this morning, but I guess I'm too slow. @YaelDillies, can you make a PR to revert this line?

Comment (YaelDillies) [reply Mathlib/Data/Finset/Lattice.lean:7]: What happened is that I accidentally partially reverted style changes to `data.finset.locally_finite` in leanprover-community/mathlib#18838, but in a way that only changes whitespace. So bumping the SHA was the right thing to do.
